US08980911B2
To a solution of 2,6-difluorobenzoic acid (176 mg, 1.15 mmol) in dry dichloromethane, was added thionyl chloride (5 mL) and heated at 100° C. for about 3 hours. The reaction mass was concentrated under vacuum. The residual mass was dissolved in dry dichloromethane (3 mL) and added to a well stirred solution of N-(2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide (120 mg, 0.55 mmol) in aluminium chloride (743 mg, 5.57 mmol) drop wise. The resulting reaction mixture was stirred overnight at room temperature. After completion, methanol (10 mL) was added cautiously to quench the reaction mass followed by concentration under vacuum. The reaction mass was diluted with water and extracted with ethyl acetate. The combined organic layer was neutralized using aq. sodium bicarbonate solution, washed with brine, dried over anhydrous sodium sulfate, and concentrated. Purification by silica gel (100-200) column chromatography using dichloromethane and methanol gradient as eluent afforded N-[3-(2,6-difluorobenzoyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (80 mg, 42%).

reactant | 2,6-difluorobenzoic acid | 1.15 mmol, 176 mg | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)cyclopropanecarboxamide | 0.55 mmol, 120 mg | CC1=CC=2C(=C(N=CC2)NC(=O)C2CC2)N1 | C12H13N3O
reactant | aluminium chloride | 5.57 mmol, 743 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | N-[3-(2,6-difluorobenzoyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 80 mg, 42% | FC1=C(C(=O)C2=C(NC3=C(N=CC=C32)NC(=O)C3CC3)C)C(=CC=C1)F | C19H15F2N3O2
